US08039495B2
A mixture of {{[3-(4-bromo-2-fluoro-phenoxymethyl)-benzoyl]-methyl-amino}-acetic acid ethyl ester (600 mg, 1.51 mmol), 2,4,5-trifluorophenylboronic acid (400 mg, 2.27 mmol), Pd(dppf)Cl2 methylene chloride complex (37 mg, 0.045 mmol), potassium carbonate (520 mg, 3.8 mmol), DMF (12 mL) and water (3 mL) was degassed, flashed with nitrogen, heated at 150° C. for 60 minutes in microwave reactor. The mixture was acidified by conc. HCl and diluted with water. Solvent was then removed by decantation and the sticky residue was purified by preparative HPLC to afford {{methyl-[3-(3,2′,4′,5′-tetrafluoro-biphenyl-4-yloxymethyl)-benzoyl]-amino}-acetic acid, 171 mg (25%). LC-MS (ES) calculated for C23H17F4NO4, 447; found m/z 448 [M+H]+.

reactant | {[3-(4-bromo-2-fluoro-phenoxymethyl)-benzoyl]-methyl-amino}-acetic acid ethyl ester | 1.51 mmol, 600 mg | C(C)OC(CN(C)C(C1=CC(=CC=C1)COC1=C(C=C(C=C1)Br)F)=O)=O | C19H19BrFNO4
reactant | 2,4,5-trifluorophenylboronic acid | 2.27 mmol, 400 mg | FC1=C(C=C(C(=C1)F)F)B(O)O | C6H4BF3O2
reactant | potassium carbonate | 3.8 mmol, 520 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | water | 3 mL | O | H2O
product | {methyl-[3-(3,2′,4′,5′-tetrafluoro-biphenyl-4-yloxymethyl)-benzoyl]-amino}-acetic acid | CN(C(C1=CC(=CC=C1)COC1=C(C=C(C=C1)C1=C(C=C(C(=C1)F)F)F)F)=O)CC(=O)O | C23H17F4NO4
